US07635700B2
To a stirred solution of (3,4-dichloro-phenyl)-acetic acid (0.30 g, 1.5 mmol) in DMF (8 mL) in a 40° C. oil bath, was added 1.1′ carbonyldiimidazole (0.26 g, 1.6 mmol) and stirred for one hour. To the mixture, 3-(5-aminomethyl-2-methyl-4-oxo-4H-quinazolin-3-yl)-piperidine-2,6-dione hydrogen chloride (0.50 g, 1.5 mmol) was added, and the mixture was stirred for 15 minutes. The solvent was evaporated, and the residue was purified by flash column chromatography (Silica gel, methanol/methylene chloride 4%/96%) to give 2-(3,4-dichloro-phenyl)-N-[3-(2,6-dioxo-piperidin-3-yl)-2-methyl-4-oxo-3,4-dihydro-quinazolin-5-ylmethyl]-acetamide as a yellow solid (540 mg, 74% yield); HPLC, Waters Symmetry C18, 5 μm, 3.9×150 mm, 1 mL/min, 240 nm, 10/90 CH3CN/0.1% H3PO4, grad. to 95/5 in 5 min, kept 5 min, 6.41 min (98.4%); mp, 262-264° C.; 1HNMR (DMSO-d6) 2.14-2.19 (m, 1H, CHH), 2.57-2.89 (m, 6H, CHCH2, CH3), 3.57 (s, 2H, ArCH2), 4.69-4.85 (m, 2H, CH2NH), 5.24 (dd, J=6, 11 Hz, 1H, CH), 7.26-7.73 (m, 6H, Ar), 8.42 (t, J=6 Hz, 1H, CH2NH), 11.02 (s, 1H, NH); 13C NMR (DMSO-d6) δ 20.73, 23.28, 30.60, 40.98, 41.76, 56.49, 117.70, 124.84, 125.65, 129.06, 129.55, 130.27, 130.63, 131.11, 133.82, 137.43, 140.52, 148.46, 154.81, 160.90, 169.42, 169.49, 172.59. LCMS MH=487, 489; Anal Calcd For C23H20N4O4Cl2: C, 56.69; H, 4.14; N, 11.50; Cl, 14.55. Found: C, 56.50; H, 3.95; N, 11.25; Cl, 14.29.

reactant | (3,4-dichloro-phenyl)-acetic acid | 1.5 mmol, 0.30 g | ClC=1C=C(C=CC1Cl)CC(=O)O | C8H6Cl2O2
reactant | 1.1′ carbonyldiimidazole | 1.6 mmol, 0.26 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 3-(5-aminomethyl-2-methyl-4-oxo-4H-quinazolin-3-yl)-piperidine-2,6-dione hydrogen chloride | 1.5 mmol, 0.50 g | Cl.NCC1=C2C(N(C(=NC2=CC=C1)C)C1C(NC(CC1)=O)=O)=O
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | 2-(3,4-dichloro-phenyl)-N-[3-(2,6-dioxo-piperidin-3-yl)-2-methyl-4-oxo-3,4-dihydro-quinazolin-5-ylmethyl]-acetamide | 540 mg, 74% yield | ClC=1C=C(C=CC1Cl)CC(=O)NCC1=C2C(N(C(=NC2=CC=C1)C)C1C(NC(CC1)=O)=O)=O | C23H20Cl2N4O4
